US05093364
Methanesulphonyl chloride (0.68 g) was added dropwise to a stirred solution of methyl 4-fluoroanthranilate (1 g) in pyridine (dried over 4A sieves, 10 ml) at 0°-5°. After 18 hours at room temperature, the mixture was cooled to 0°-5° and further methanesulphonyl chloride (0.68 g) was added dropwise. The mixture was stirred for 24 hours at room temperature. Aqueous work up and recrystallisation from ethanol gave methyl N-(methylsulphonyl)-4-fluoroanthranilate, mp 115.5°-116.5°. (Compound 19).

reactant | Methanesulphonyl chloride | 0.68 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 4-fluoroanthranilate | 1 g | FC=1C=C(C(C(=O)OC)=CC1)N | C8H8FNO2
reactant | methanesulphonyl chloride | 0.68 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | methyl N-(methylsulphonyl)-4-fluoroanthranilate | CS(=O)(=O)NC=1C(C(=O)OC)=CC=C(C1)F | C9H10FNO4S
